US09376442B2
1-Bromo-2-cyclopropylmethoxy-5-ethyl-benzene
Starting from 2-bromo-4-ethyl-phenol (example B.a5) and commercially available bromomethyl-cyclopropane the title compound is obtained as colorless oil after distillation at 10 mbar.

reactant | 2-bromo-4-ethyl-phenol | BrC1=C(C=CC(=C1)CC)O | C8H9BrO
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 1-Bromo-2-cyclopropylmethoxy-5-ethyl-benzene | BrC1=C(C=CC(=C1)CC)OCC1CC1 | C12H15BrO
